US07893074B2
40 Preparation of 1-[1-(3-Methoxy-4-nitro-phenyl)-piperidin-4-yl]-4-methyl-piperazine
To a solution of 1-(3-Methoxy-4-nitro-phenyl)-piperidin-4-one (4.96 g, 0.020 mol) in dichloroethane (50 ml) is added N-methylpiperazine (2.7 ml, 0.024 mol) at 0° C. and the mixture is stirred at room temperature. After 4 h, sodium triacetoxy-borohydride (5.04 g, 0.024 mol) is added and the mixture is further stirred at room temperature for 24 h. After addition of 1N sodium hydroxide at 0° C., the mixture is poured into water and extracted three times with dichloromethane. The organic layer is combined and extracted three times with 1N hydrochloride. The water layer is basified with 2N sodium hydroxide and extracted three times with dichloromethane. The organic layer is washed with brine, dried over sodium sulfate, and evaporated in vacuo to give the title compound as yellow solids (6.04 g) in 91% yield.

reactant | 1-(3-Methoxy-4-nitro-phenyl)-piperidin-4-one | 0.020 mol, 4.96 g | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)=O | C12H14N2O4
reactant | N-methylpiperazine | 0.024 mol, 2.7 ml | CN1CCNCC1 | C5H12N2
reactant | sodium triacetoxy-borohydride | 0.024 mol, 5.04 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | 1-[1-(3-Methoxy-4-nitro-phenyl)-piperidin-4-yl]-4-methyl-piperazine | 6.04 g, 91% yield | COC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)N1CCN(CC1)C | C17H26N4O3
